US04294969
A solution of 5-amino-2-chloronicotinonitrile (5.0 g, 0.033 m), 2,5-dimethoxytetrahydrofuran (11 g, 0.085 m) and acetic anhydride (20 ml) was heated at reflux with stirring. After two hours, the solution was concentrated to dryness under reduced pressure (20 mm). The residue was triturated with CCl4 and filtered to yield 5.2 g (78% yield) of 2-chloro-5-(1-pyrrolyl)nicotinonitrile, m.p.=144°-146°.

reactant | 5-amino-2-chloronicotinonitrile | 5.0 g | NC=1C=NC(=C(C#N)C1)Cl | C6H4ClN3
reactant | 2,5-dimethoxytetrahydrofuran | 11 g | COC1OC(CC1)OC | C6H12O3
solvent | acetic anhydride | 20 ml | C(C)(=O)OC(C)=O | C4H6O3
product | 2-chloro-5-(1-pyrrolyl)nicotinonitrile | 5.2 g, 78% yield | ClC1=C(C#N)C=C(C=N1)N1C=CC=C1 | C10H6ClN3
